US05356906
To 2.64 mL (18.9 mmol) of diisopropylamine in 30 mL of dry THF at -78° was added 6.9 mL (17.3 mmol) of 2.5M n-butyllithium in hexanes. The mixture was allowed to warm to room temperature and then was cooled once again to -78°. To the stirred solution was added 4.11 g (15.7 mmol) of 1-(2-phenylethyl)-4-carboethoxypiperidine in 25 mL of dry THF. The mixture was allowed to warm to -40° and 0.98 mL (15.7 mmol) of iodomethane was added to the reaction mixture. The mixture was stirred at -40° for 15 minutes and then allowed to stir at room temperature for 3 hours. The mixture was evaporated to dryness and the residue was dissolved in water. The aqueous solution was extracted with methylene chloride and the extracts were dried and evaporated to give 3.70 g of 1-(2-phenylethyl)-4-methyl-4-carboethoxypiperidine as a yellow oil. NMR (CDCl3) δ7.15-7.21 (m, 5H); 4.11-4.20 (q, 4H); 2.71-2.94 (m, 4H): 2.52-2.61 (m, 2H): 2.11-2.24 (m, 4H); 1.47-1.59 (m, 2H); 1.21-1.30 (t, 3H); 1.20 (s, 3H).

reactant | diisopropylamine | 18.9 mmol, 2.64 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 17.3 mmol, 2.5M, 6.9 mL | C(CCC)[Li]
reactant | 1-(2-phenylethyl)-4-carboethoxypiperidine | 15.7 mmol, 4.11 g | C1(=CC=CC=C1)CCN1CCC(CC1)C(=O)OCC | C16H23NO2
reactant | iodomethane | 15.7 mmol, 0.98 mL | IC | CH3I
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | 1-(2-phenylethyl)-4-methyl-4-carboethoxypiperidine | 3.70 g | C1(=CC=CC=C1)CCN1CCC(CC1)(C(=O)OCC)C | C17H25NO2
